US06946472B2
Preparation of 6-(3-{methyl-[3-(7-oxo-7H-5,9-diaza-benzo[c]fluoren-6-ylamino)-propyl]-amino}-propylamino)-5,9-diaza-benzo[c]fluoren-7-one
A mixture of toluene-4-sulfonic acid 7-oxo-7H-5,9-diaza-benzo[c]fluoren-6-yl ester (Reference Example 6c-2) (90 mg) and N1-(3-amino-propyl)-N1-methyl-propane-1,3-diamine (WAKO PURE CHEMICAL: 15 mg) and potassium carbonate (37 mg) was suspended in dichloromethane (10 ml) and heated at reflux temperature for five days under nitrogen. The mixture was roughly purified by short silica gel column chromatography developed by dichloromethane-methanol=100:1 and dichloromethane-methanol=1:1. The fractions that contained the desired product were combined and evaporated to dryness and purified again by silica gel thin layer chromatography developed by dichloromethane-methanol-ammonia water=90:10:1. The desired compound was obtained as a dark reddish powder.

reactant | toluene-4-sulfonic acid 7-oxo-7H-5,9-diaza-benzo[c]fluoren-6-yl ester | 90 mg | O=C1C=2C=NC=CC2C=2C3=C(N=C(C12)OS(=O)(=O)C1=CC=C(C=C1)C)C=CC=C3 | C22H14N2O4S
reactant | N1-(3-amino-propyl)-N1-methyl-propane-1,3-diamine | 15 mg | NCCCN(CCCN)C | C7H19N3
reactant | potassium carbonate | 37 mg | C([O-])([O-])=O.[K+].[K+]
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 6-(3-{methyl-[3-(7-oxo-7H-5,9-diaza-benzo[c]fluoren-6-ylamino)-propyl]-amino}-propylamino)-5,9-diaza-benzo[c]fluoren-7-one | CN(CCCNC1=NC2=C(C=3C=4C=CN=CC4C(C13)=O)C=CC=C2)CCCNC2=NC1=C(C=3C=4C=CN=CC4C(C23)=O)C=CC=C1 | C37H31N7O2
